US07220744B2
b) 1-(4,5-Dimethyl-thiazol-2-yl)-piperazine
Prepared in analogy to example 2 (b) from 2-iodo-4,5-dimethyl-thiazole and piperazine. The crude material was purified by chromatography (SiO2, methanol/dichloromethane) to yield the title compound as a yellow crystalline solid (yield 25%). MS (m/e): 198.3 (M+H+, 100%).

reactant | 2-iodo-4,5-dimethyl-thiazole | IC=1SC(=C(N1)C)C | C5H6INS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(4,5-Dimethyl-thiazol-2-yl)-piperazine | yield 25% | CC=1N=C(SC1C)N1CCNCC1 | C9H15N3S
